* SPICE3 file created from /foss/designs/Layout/Inverter_base.ext - technology: sky130A

X0 vout vin vdd vdd sky130_fd_pr__pfet_01v8 ad=0.42 pd=2.9 as=0.42 ps=2.9 w=1.05 l=0.2
X1 vout vin vss vss sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.8 as=0.4 ps=2.8 w=1 l=0.2
